US07183436B2
30 g 8-dimethylamino-1,4-dioxaspiro[4.5] decane-8-carbonitrile were dissolved in 300 ml tetrahydrofuran, 143 ml 2.0 molar phenyl magnesium chloride solution in THF were added under a nitrogen atmosphere and stirred overnight at ambient temperature. To work up the mixture, 100 ml ammonium chloride solution (20% by weight) were added with ice cooling, the phases were separated, the aqueous phase was extracted twice with 250 ml diethylether in each case, the combined organic phases were dried over sodium sulfate, filtered, concentrated and substantially freed from solvent residues under vacuum. The crude dimethyl-(8-phenyl-1,4-dioxaspiro[4.5]dec-8-yl)amine (34.5 g) obtained was stirred for 48 hours with a mixture of 83 ml concentrated hydrochloric acid (32% by weight) and 48 ml water at ambient temperature without further purification. Subsequently the reaction mixture was first washed three times with 50 ml diethylether in each case, then alkalized by addition of 100 ml sodium hydroxide solution (32% by weight) with ice cooling, extracted three times with 100 ml dichloromethane in each case, the combined dichloromethane extracts were dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. 18.8 g 4-dimethylamino-4-phenylcyclohexanone were obtained.

reactant | 8-dimethylamino-1,4-dioxaspiro[4.5] decane-8-carbonitrile | 30 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | phenyl magnesium chloride | 2.0 molar, 143 ml | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | dimethyl-(8-phenyl-1,4-dioxaspiro[4.5]dec-8-yl)amine | 34.5 g | CN(C1(CCC2(OCCO2)CC1)C1=CC=CC=C1)C | C16H23NO2
